US08039450B2
19by 4-(1-Hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzoic acid 2-dimethylamino-ethyl ester (D75)
To a clear solution of 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzoic acid ((C38), 0.5 g, 1.75 mmol) in DMF (20 mL) were added N,N-dimethylamino ethanol (0.37 mL, 3.7 mmol) and EDCI (0.71 g, 3.7 mmol). The reaction was stirred at room temperature overnight. Then DMF was evaporated under vacuum. The residue was purified over silica gel, eluting with 5% MeOH/DCM, to afford the 0.35 g of the title compound in 56% yield. 1H NMR 400 MHz (DMSO-d6) δ: 7.97 (d, J=8.9 Hz, 2H), 7.76 (d, J=7.8 Hz, 1H), 7.15-7.07 (m, 4H), 4.95 (s, 2H), 4.33 (t, J=5.5 Hz, 2H), 2.58 (t, J=5.9 Hz, 2H), 2.20 (s, 6H); MS (ES) m/z: 342 (M+H)+; HPLC purity: 91.90% (220 nm), 94.99% (254 nm).

reactant | 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzoic acid | 1.75 mmol, 0.5 g | OB1OCC2=C1C=CC(=C2)OC2=CC=C(C(=O)O)C=C2 | C14H11BO5
reactant | N,N-dimethylamino ethanol | 3.7 mmol, 0.37 mL | CN(C)CCO | C4H11NO
reactant | EDCI | 3.7 mmol, 0.71 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(1-Hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzoic acid 2-dimethylamino-ethyl ester | 0.35 g, 56% yield | CN(CCOC(C1=CC=C(C=C1)OC1=CC2=C(B(OC2)O)C=C1)=O)C | C18H20BNO5
